US07186729B2
Step 1: 3-Isopropylamino-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (R)-3-amino-1-N-Boc pyrrolidine (1.0 eq, 2.68 mmol) in methanol (15 mL) was added acetone (1.07 eq), sodium cyano borohydride (2.0 eq) and few drops of acetic acid and the resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate. The combined organics were washed with brine and dried over sodium sulfate. The crude product was purified on silica using gradient elution from hexane/ethyl acetate (5%) to hexane/ethyl acetate (30%). 1H-NMR (CDCl3) δ: 1.05 (6H, d), 1.45 (9H, s), 1.60 (1H, m), 2.80–3.00 (2H, m), 3.20–3.70 (4H, m). ESI-MS m/z: 229 (M+1), UV retention time: 0.77 min.

reactant | (R)-3-amino-1-N-Boc pyrrolidine | 2.68 mmol, 1.0 eq | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetone | 1.07 eq | CC(=O)C | C3H6O
reactant | sodium cyano borohydride | 2.0 eq | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 15 mL | CO | CH4O
product | 3-Isopropylamino-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(C)C | C12H24N2O2
